US07411071B2
To a solution of N-(4-phenoxymethyl-thiazol-2-yl)-acetamide (40 mg, 0.16 mmol) in THF (2 ml) was added 6N HCl (2 ml). The reaction was heated at 60° C. for 3 hours following by stirring at room temperature overnight and then heated at 60° C. for additional 3 hours. The solution was concentrated to afford 4-phenoxymethyl-thiazol-2-ylamine (HCl salt) as a brown viscous oil (35 mg, 90% ). LC/MS m/z 207.09 (M+1)+; HPLC Rt: 1.137 min

reactant | N-(4-phenoxymethyl-thiazol-2-yl)-acetamide | 0.16 mmol, 40 mg | O(C1=CC=CC=C1)CC=1N=C(SC1)NC(C)=O | C12H12N2O2S
reactant | HCl | 6N, 2 ml | Cl | ClH
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 4-phenoxymethyl-thiazol-2-ylamine | 35 mg, 90% | O(C1=CC=CC=C1)CC=1N=C(SC1)N | C10H10N2OS
